US07534547B2
Methyl 4-hydroxybenzoate (15.4 g: 101.2 mmol) was dissolved in 150 ml of dimethylsulfoxide (DMSO), and an aqueous solution of potassium hydroxide (KOH/H2O: 7 g/15 ml) was added to the mixture. The resultant mixture was stirred until dissolving homogeneously. Next, 12.5 g (101.6 mmol) of n-propyl bromide was added thereto, and the reaction was carried out at a room temperature for 24 hours. The reaction mixture was poured into 1 L of an iced water and the resultant precipitate was collected by filtration. The obtained precipitate was dissolved in 300 ml of ethanol, and an aqueous solution of sodium hydroxide (NaOH/H2O: 5 g/100 ml) was added thereto. Thus obtained mixture was refluxed by heating for 1 hour, and water (the amount of the water: about 300 ml) was added thereto with removing ethanol (EtOH). After cooling to a room temperature, the transparent solution was acidified by adding a concentrated hydrochloric acid. The resultant white precipitate was filtered and recrystallized from toluene to give 17.5 g (97.2 mmol) of 4-n-propyloxybenzoic acid.

reactant | Methyl 4-hydroxybenzoate | 101.2 mmol, 15.4 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium hydroxide | 15 ml, 7 g | [OH-].[K+]
reactant | n-propyl bromide | 101.6 mmol, 12.5 g | CCCBr | C3H7Br
reactant | water | 1 L | O | H2O
solvent | dimethylsulfoxide | 150 ml | CS(=O)C | C2H6OS
product | 4-n-propyloxybenzoic acid | 97.2 mmol, 17.5 g | C(CC)OC1=CC=C(C(=O)O)C=C1 | C10H12O3
